US04395406
4-Carboxymethylthio-5-fluoropyrimid-2-one
4-Ethoxycarbonylmethylthio-5-fluoropyrimid-2-one (0.0013 mol) in 2 M potassium hydroxide (4 ml) was heated on a waterbath for 5-6 min. The solution was allowed to cool before neutralisation with dilute hydrochloric acid. The precipitated solid was recrystallised from methanol: yield 41%, m.p. 255° C.

reactant | 4-Ethoxycarbonylmethylthio-5-fluoropyrimid-2-one | 0.0013 mol | C(C)OC(=O)CSC1=NC(NC=C1F)=O | C8H9FN2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | 2 M, 4 ml | [OH-].[K+]
product | 4-Carboxymethylthio-5-fluoropyrimid-2-one | yield 41% | C(=O)(O)CSC1=NC(NC=C1F)=O | C6H5FN2O3S
